US06326372B1
Step 3: 3-Azido-2-cyclopropyl-3-(3,4-difluorophenyl)propionic Acid N-((R)-α-methylbenzyl)amide
The appropriate diastereomer of 2-cyclopropyl-3-(3,4-difluorophenyl)-3-hydroxypropionic acid N-((R)-(α-methylbenzyl)amide (1.1 g, 3.18 mmol), triphenylphosphine (1.7 g, 6.48 mmol), and diphenyl-phosphoryl azide (1.37 mL, 6.36 mmol) were combined in THF (30 mL) and cooled to −78° C. under nitrogen. Diethyl azodicarboxylate (1.2 mL, 7.63 mmol) was added and the mixture was stirred 1 hour at −78, 1 hour at 0° C. and 16 hours at ambient temperature. The reaction mixture was washed with saturated sodium bicarbonate and brine, dried the over sodium sulfate, filtered, and evaporated to dryness. The resulting oil was purified and separated by “flash” chromatography (98:2 of methylene chloride:ethyl ether). The product fractions were evaporated to dryness and the residue was reconcentrated from ethyl ether to yield the title compound as an oil.

reactant | 2-cyclopropyl-3-(3,4-difluorophenyl)-3-hydroxypropionic acid | C1(CC1)C(C(=O)O)C(O)C1=CC(=C(C=C1)F)F | C12H12F2O3
reactant | (R)-(α-methylbenzyl)amide | 3.18 mmol, 1.1 g | C[C@H](C1=CC=CC=C1)[NH-]
reactant | triphenylphosphine | 6.48 mmol, 1.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diphenyl-phosphoryl azide | 6.36 mmol, 1.37 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Diethyl azodicarboxylate | 7.63 mmol, 1.2 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-Azido-2-cyclopropyl-3-(3,4-difluorophenyl)propionic Acid N-((R)-α-methylbenzyl)amide | C[C@H](C1=CC=CC=C1)NC(C(C(C1=CC(=C(C=C1)F)F)N=[N+]=[N-])C1CC1)=O | C20H20F2N4O
